US05958942
4,5-Dihydro-4-[2-(1-trifluoroacetylpiperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one
In 15 ml of acetonitrile was suspended 713 mg (2.0 mM) of 4-[2-(piperidin-4-yl)ethan-1-yl]-4,5-dihydro-3H-1,4,8b-triazaacenaphthylen-3-one hydrochloride followed by addition of 0.6 ml (4.0 mM) of DBU at room temperature with stirring. To the resulting solution was added 0.83 ml (6.0 mM) of triethylamine as well as 0.31 ml (2.2 mM) of trifluoroacetic anhydride at 0° C. and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was extracted with 50 ml of 2-butanone. The organic layer was washed with 50 ml of saturated aqueous NaCl solution and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate-ethanol=9:1) to provide 455 mg (yield 59.8%) of the title compound as light yellow solid.

reactant | 4-[2-(piperidin-4-yl)ethan-1-yl]-4,5-dihydro-3H-1,4,8b-triazaacenaphthylen-3-one hydrochloride | 2.0 mM, 713 mg | Cl.N1CCC(CC1)CCN1C(C2=CN=C3C=CC=C(C1)N32)=O
reactant | DBU | 4.0 mM, 0.6 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | triethylamine | 6.0 mM, 0.83 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 2.2 mM, 0.31 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4,5-Dihydro-4-[2-(1-trifluoroacetylpiperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 455 mg, yield 59.8% | FC(C(=O)N1CCC(CC1)CCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C18H19F3N4O2
